US07345178B2
In a typical run, 2-amino-5-bromothiazole monohydrobromide (Aldrich, 5.00 g, 0.0192 mol) was mixed with 40 mL of toluene, 40 mL of ethanol, and 20 mL of water. 2-Nitrophenyl boronic acid (3.2 g, 0.0192 mol) was added, along with 2.35 g of [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) complex with CH2Cl2 (1:1) and 6.10 g of anhydrous sodium carbonate. The reaction mixture was stirred at 90° C. for 18 hours. It was then cooled to room temperature and concentrated. The resulting residue was mixed with 500 mL of EtOAc and washed with water (3×50 mL). The organic layer was filtered to remove the black precipitate. The filtrate was extracted with dilute 1N HCl. The combined aqueous layers were concentrated to near dryness. The resulting residue was purified by preparative HPLC using a mixture of aqueous acetonitrile that has been buffered with 0.1% TFA to afford 108 mg of 5-(2-nitro-phenyl)-thiazol-2-ylamine (MS, M++H=222).

reactant | 2-amino-5-bromothiazole monohydrobromide | 0.0192 mol, 5.00 g | Br.NC=1SC(=CN1)Br
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-Nitrophenyl boronic acid | 0.0192 mol, 3.2 g | [N+](=O)([O-])C1=C(C=CC=C1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 6.10 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 5-(2-nitro-phenyl)-thiazol-2-ylamine | 108 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=CN=C(S1)N | C9H7N3O2S
